US06702705B1
tert-Butyl 2-bromo-2-methylpropanoate (58)
Isobutene is condensed into a solution of 2-bromo-2-methylpropanoic acid (10 mmol) and trifluoroacetic acid (1 mmol) in 100 mL of CH2Cl2 until the starting material is consumed, as observed by TLC. The volatile components are evaporated in vacuo, and the residue is filtered through a pad of neutral alumina using 50% ether/hexane. The filtrate is concentrated in vacuo and used without further purification.

reactant | Isobutene | C=C(C)C | C4H8
reactant | 2-bromo-2-methylpropanoic acid | 10 mmol | BrC(C(=O)O)(C)C | C4H7BrO2
reactant | trifluoroacetic acid | 1 mmol | FC(C(=O)O)(F)F | C2HF3O2
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
product | tert-Butyl 2-bromo-2-methylpropanoate | BrC(C(=O)OC(C)(C)C)(C)C | C8H15BrO2
